US06656951B2
3-(1-Benzothien-3-yl)-8-{[(2S)-8-methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}-8-azabicyclo[3.2.1]octan-3-ol
The title compound was prepared by the same procedure described in Example 1, Step 4 using 3-benzo[b]thiophen-3-yl-8-aza-bicyclo[3.2.1]octan-3-ol in place of 3-naphthalen-2-yl-8-aza-bicyclo[3.2.1]octan-3-ol, and (S)-toluene-4-sulfonic acid 8-methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester in place of (S)-toluene-4-sulfonic acid 8-ethoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester. Yield: 33%, white solid.

reactant | 3-benzo[b]thiophen-3-yl-8-aza-bicyclo[3.2.1]octan-3-ol | S1C2=C(C(=C1)C1(CC3CCC(C1)N3)O)C=CC=C2 | C15H17NOS
reactant | (S)-toluene-4-sulfonic acid 8-methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester | COC1=CC=CC2=C1O[C@@H](CO2)COS(=O)(=O)C2=CC=C(C=C2)C | C17H18O6S
product | 3-(1-Benzothien-3-yl)-8-{[(2S)-8-methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}-8-azabicyclo[3.2.1]octan-3-ol | Yield: 33% | S1C=C(C2=C1C=CC=C2)C2(CC1CCC(C2)N1C[C@H]1COC2=C(O1)C(=CC=C2)OC)O | C25H27NO4S
